US09107411B2
A) 2-chloro-N-cyclopropyl-4-fluoro-5-nitrobenzamide
2 g (9.11 mmol) of 2-chloro-4-fluoro-5-nitrobenzoic acid were dissolved in 91 g of dichloroethane, 22.66 g of thionyl chloride were added and the mixture was boiled until the evolution of gas had ended. The volatile constituents were distilled off and the acid chloride thus obtained was used directly in the next step. 2.166 g (9.1 mmol) of 2-chloro-4-fluoro-5-nitrobenzoyl chloride were dissolved in 100 ml of dichloromethane, this solution was cooled to 0° C., and 0.52 g (9.1 mmol) of cyclopropylamine and 1.38 g (13.65 mmol) of triethylamine were added together, predissolved in 5 ml of dichloromethane. After stirring at room temperature for two hours, the volatile constituents were distilled off, the resulting residue was slurried with a little diethyl ether, the diethyl ether phase was decanted off and the residue was stirred with water.

reactant | 2-chloro-4-fluoro-5-nitrobenzoyl chloride | 9.1 mmol, 2.166 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)[N+](=O)[O-] | C7H2Cl2FNO3
reactant | cyclopropylamine | 9.1 mmol, 0.52 g | C1(CC1)N | C3H7N
reactant | triethylamine | 13.65 mmol, 1.38 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-chloro-N-cyclopropyl-4-fluoro-5-nitrobenzamide | ClC1=C(C(=O)NC2CC2)C=C(C(=C1)F)[N+](=O)[O-] | C10H8ClFN2O3
